US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3-(S)-methyoxymethyl-piperazin-2-one
The title compound is prepared as described in EXAMPLE 278 using 1-(4-amino-quinazoline-7-ylmethyl)-3-methoxymethyl-piperazine-2-one, EXAMPLE 75 and 2-(3-bromo-(E)-propenyl)-5-chloro-thiophene EXAMPLE 17. 1H NMR (d6-DMSO, 300 MHz) δ9.74 (bs, 2H), 8.80 (s, 1H), 8.38 (d, 1H), 7.69 (m, 2H), 7.02 (dd, 1H), 6.84 (d, 1H), 6.02 (m, 1H), 4.76 (AB, 2H), 3.86 (m, 4H), 3.30 (s, 3H), 3.23 (m, 2H), 3.02 (m, 2H). MS (ion spray), m/z, 458, 460, (M+H) (Cl pattern). Elemental analysis, cal C22H24ClN5O2S.2C2HF3O2.1.45H2O % C=43.85, % H=4.09, % N=9.83; found % C=43.92, % H=3.61, % N=9.63.

reactant | 1-(4-amino-quinazoline-7-ylmethyl)-3-methoxymethyl-piperazine-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C(C(NCC1)COC)=O | C15H19N5O2
reactant | 2-(3-bromo-(E)-propenyl)-5-chloro-thiophene | BrC/C=C/C=1SC(=CC1)Cl | C7H6BrClS
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3-(S)-methyoxymethyl-piperazin-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)CC=CC=1SC(=CC1)Cl)COC)=O | C22H24ClN5O2S
